US09210927B2
Step 1. tert-Butyl 4-bromo-2-chlorobenzoate (AI18)
To a stirred solution of 4-bromo-2-chlorobenzoic acid (5 g, 21.37 mmol) in THF (30 mL) was added di-tert-butyl dicarbonate (25.5 g, 25.58 mmol), TEA (3.2 g, 31.98 mmol) and DMAP (0.78 g, 6.398 mmol), and the reaction mixture was stirred at 25° C. for 18 h. The reaction mixture was diluted with EtOAc and washed with H2O. The combined organic layer was washed with brine, dried over Na2SO4 and concentrated under reduced pressure. The residue was purified by flash chromatography (SiO2, 100-200 mesh; eluting with 2-3% EtOAc in n-hexane) to afford the title compound as a liquid (3.2 g, 51%): 1H NMR (400 MHz, CDCl3) δ 7.62 (m, 2H), 7.44 (d, J=8.4 Hz, 1H), 1.59 (s, 9H); ESIMS m/z 290.10 ([M+H]+); IR (thin film) 1728 cm−1.

reactant | 4-bromo-2-chlorobenzoic acid | 21.37 mmol, 5 g | BrC1=CC(=C(C(=O)O)C=C1)Cl | C7H4BrClO2
reactant | di-tert-butyl dicarbonate | 25.58 mmol, 25.5 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | THF | 30 mL | C1CCOC1 | C4H8O
catalyst | DMAP | 6.398 mmol, 0.78 g | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | tert-Butyl 4-bromo-2-chlorobenzoate | 3.2 g, 51% | BrC1=CC(=C(C(=O)OC(C)(C)C)C=C1)Cl | C11H12BrClO2
